US07208493B2
6,7-bis(3-hydroxyphenyl)-pteridine-2,4-diamine
4.76 g (20.0 mmol) of 2,4,5,6-tetraaminopyrimidine sulfate was added in small portions to a solution of 3.36 g (40.0 mmol) sodium bicarbonate in 100 mL of water with vigorous stirring. A brisk evolution of CO2 gas was observed. The resulting suspension was heated to 80° C. and 4.84 g (20.0 mmol) of 3,3′-dihydroxybenzil was added to the mixture. The reaction mixture was refluxed for 3 hours, at which point a bright-yellow precipitate was formed in abundance.

reactant | 2,4,5,6-tetraaminopyrimidine sulfate | 20.0 mmol, 4.76 g | S(=O)(=O)(O)O.NC1=NC(=C(C(=N1)N)N)N
reactant | sodium bicarbonate | 40.0 mmol, 3.36 g | C([O-])(O)=O.[Na+]
reactant | CO2 | C(=O)=O | CO2
reactant | 3,3′-dihydroxybenzil | 20.0 mmol, 4.84 g | OC=1C=C(C=CC1)C(=O)C(=O)C1=CC(=CC=C1)O | C14H10O4
solvent | water | 100 mL | O | H2O
product | 6,7-bis(3-hydroxyphenyl)-pteridine-2,4-diamine | OC=1C=C(C=CC1)C=1N=C2C(=NC(=NC2=NC1C1=CC(=CC=C1)O)N)N | C18H14N6O2
